US07790707B2
Methyl 4-(3-(3-cyclohexylphenyl)-2-oxoimidazolidin-1-yl)benzoate
A mixture of ethyl 4-(3-(3-bromophenyl)-2-oxoimidazolidin-1-yl)benzoate and methyl 4-(3-(3-iodophenyl)-2-oxoimidazolidin-1-yl)benzoate (190 mg, ˜0.5 mmol) was dissolved in a tetrahydrofuran (THF) solution of Rieke's reagent (0.5M, 1.5 mmol) in a microwave reaction tube. Pd(PtBu3)2 (13 mg, 0.03 mmol) was added to this solution. The mixture was purged with N2 gas for 3-5 minutes and heated at 100° C. for 30 minutes under microwave irradiation (Personal Chemistry Emrys™ Optimizer microwave reactor). Upon completion of the reaction, the reaction mixture was diluted with ethyl acetate, brine, filtered through Celite. The filtrate was dried over Na2SO4 and concentrated. The residue was purified by silica gel column chromatography (ISCO system, 1% MeOH/dichloromethane) to give a pure product (155 mg, 81% yield): 1H NMR (400 MHz, DMSO-d6) δ 7.95 (m, 2H), 7.78 (m, 2H), 7.55 (s, 1H), 7.38 (dd, 1H), 7.28 (dd, 1H), 6.95 (d, 1H), 4.00 (s, 4H), 3.81 (s, 3H), 2.45 (m, 1H, under the peak of DMSO-d6), 1.67-1.79 (m, 5H), 1.21-1.45 (m, 5H). MS (ESI) m/z: Calculated: 378.19; Observed: 379.2 (M++1).

reactant | ethyl 4-(3-(3-bromophenyl)-2-oxoimidazolidin-1-yl)benzoate | BrC=1C=C(C=CC1)N1C(N(CC1)C1=CC=C(C(=O)OCC)C=C1)=O | C18H17BrN2O3
reactant | methyl 4-(3-(3-iodophenyl)-2-oxoimidazolidin-1-yl)benzoate | ˜0.5 mmol, 190 mg | IC=1C=C(C=CC1)N1C(N(CC1)C1=CC=C(C(=O)OC)C=C1)=O | C17H15IN2O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(PtBu3)2 | 0.03 mmol, 13 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | Methyl 4-(3-(3-cyclohexylphenyl)-2-oxoimidazolidin-1-yl)benzoate | 155 mg, 81% yield | C1(CCCCC1)C=1C=C(C=CC1)N1C(N(CC1)C1=CC=C(C(=O)OC)C=C1)=O | C23H26N2O3
